US05866568
Tetrabutylammonium fluoride (0.45 ml of a 1.0M solution in THF) was added to a solution of 4-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2-(trimethylsilyl)ethoxymethyl]pyridine-3-sulphonamide (0.205 g) in dry THF (2 ml) and the solution was heated under reflux for 40 minutes. More tetrabutylammonium fluoride solution (0.95 ml) was added and heating was continued for 2 hours. The reaction mixture was diluted with water (15 ml) and extracted with ether (2×30 ml). The organic extracts were washed with water and saturated sodium chloride solution and then dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with 40-50% ethyl acetate/hexane through a silica gel Mega Bond Elut column followed by recrystallisation from ethyl acetate/hexane to give 4-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.014 g), m.p. 232°-233° C.; 1H NMR (d6 -DMSO): 0.9 (d, 6 H), 1.8 (br m, 1 H), 2.1-2.5 (br m, 5 H), 3.8 (s, 3 H), 7.1-7.3 (m, 4 H), 7.35 (d, 1 H), 7.5 (s, 1 H), 8.75 (d, 1 H), 9.1 (s, 1 H), 10.4 (s, 1 H); mass spectrum (+ve ESP): 413 (M+H)+.

reactant | Tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2-(trimethylsilyl)ethoxymethyl]pyridine-3-sulphonamide | 0.205 g | C(C(C)C)C1=CC=C(C=C1)C1=C(C=NC=C1)S(=O)(=O)N(COCC[Si](C)(C)C)C1=NC=C(N=C1OC)C | C27H38N4O4SSi
reactant | tetrabutylammonium fluoride | 0.95 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
product | 4-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.014 g | C(C(C)C)C1=CC=C(C=C1)C1=C(C=NC=C1)S(=O)(=O)NC1=NC=C(N=C1OC)C | C21H24N4O3S
